*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/3.90e-03[uF]/250[V]
* Murata P/N :GCM21B7U2E392JX03
* Property : C = 3.90e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B7U2E392JX03 Port1 Port2
C01 Port1 N01 3.97e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.48e-10
R03 N02 N03 8.88e-03
L04 N03 N04 9.87e-11
R04 N03 N04 3.49e-01
C05 N04 N05 9.76e-08
L05 N04 N05 6.14e-11
R05 N04 N05 1.04e-02
C06 N05 N06 1.74e-08
L06 N05 N06 3.03e-11
R06 N05 N06 3.10e-01
C07 N06 N07 7.05e-09
L07 N06 N07 3.17e-11
R07 N06 N07 3.95e-01
C08 N07 Port2 1.19e-12
L08 N07 Port2 2.84e-10
R08 N07 Port2 1.76e+02
.ENDS GCM21B7U2E392JX03
