*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/5.60e-03[uF]/250[V]
* Murata P/N :GCM21B7U2E562JX03
* Property : C = 5.60e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B7U2E562JX03 Port1 Port2
C01 Port1 N01 5.52e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.91e-12
R03 N02 N03 6.79e-03
L04 N03 N04 1.42e-10
R04 N03 N04 3.44e-01
C05 N04 N05 1.22e-07
L05 N04 N05 4.15e-11
R05 N04 N05 7.97e-03
C06 N05 N06 2.66e-08
L06 N05 N06 3.08e-11
R06 N05 N06 3.62e-01
C07 N06 N07 9.47e-09
L07 N06 N07 3.81e-11
R07 N06 N07 3.95e-01
C08 N07 Port2 7.42e-13
L08 N07 Port2 3.59e-10
R08 N07 Port2 5.43e+02
.ENDS GCM21B7U2E562JX03
