*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.00e-04[uF]/100[V]
* Murata P/N :GCM2162C2A101JA01
* Property : C = 1.00e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C2A101JA01 Port1 Port2
C01 Port1 N01 1.00e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 6.40e-11
R03 N02 N03 1.00e-01
C04 N03 N04 3.20e-10
L04 N03 N04 1.77e-11
R04 N03 N04 1.06e+00
C05 N04 N05 7.88e-11
L05 N04 N05 2.23e-11
R05 N04 N05 2.64e+00
C06 N05 Port2 9.11e-13
L06 N05 Port2 3.67e-10
R06 N05 Port2 2.08e+02
.ENDS GCM2162C2A101JA01
