*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.80e-04[uF]/100[V]
* Murata P/N :GCM2162C2A181JA01
* Property : C = 1.80e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C2A181JA01 Port1 Port2
C01 Port1 N01 1.80e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 2.09e-10
R03 N02 N03 8.50e-02
L04 N03 N04 2.47e-11
R04 N03 N04 6.56e-01
C05 N04 N05 6.35e-10
L05 N04 N05 1.56e-11
R05 N04 N05 7.25e-01
C06 N05 N06 1.33e-10
L06 N05 N06 2.37e-11
R06 N05 N06 1.68e+00
C07 N06 N07 1.80e-12
L07 N06 N07 1.50e-10
R07 N06 N07 1.00e+05
C08 N07 Port2 4.09e-12
L08 N07 Port2 6.06e-11
R08 N07 Port2 1.05e+01
.ENDS GCM2162C2A181JA01
