*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/4.70e-04[uF]/100[V]
* Murata P/N :GCM2162C2A471JA01
* Property : C = 4.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C2A471JA01 Port1 Port2
C01 Port1 N01 4.70e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.31e-10
R03 N02 N03 6.00e-02
L04 N03 N04 3.94e-11
R04 N03 N04 1.17e+00
C05 N04 N05 1.59e-09
L05 N04 N05 1.50e-11
R05 N04 N05 2.83e-01
C06 N05 N06 2.75e-10
L06 N05 N06 2.56e-11
R06 N05 N06 6.52e-01
C07 N06 Port2 1.22e-12
L07 N06 Port2 3.10e-10
R07 N06 Port2 2.99e+02
.ENDS GCM2162C2A471JA01
