*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.50e-04[uF]/100[V]
* Murata P/N :GCM2165C2A151JA16
* Property : C = 1.50e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C2A151JA16 Port1 Port2
C01 Port1 N01 1.50e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.00e-11
R03 N02 N03 6.00e-03
C04 N03 N04 5.50e-09
R04 N03 N04 1.16e-01
L05 N04 N05 4.16e-11
R05 N04 N05 1.41e-01
L06 N05 N06 1.45e-10
R06 N05 N06 1.97e+01
C07 N06 N07 8.01e-13
L07 N06 N07 2.64e-10
C08 N07 N08 3.33e-11
L08 N07 N08 9.39e-12
R08 N07 N08 2.25e+00
C09 N08 N09 1.19e-10
L09 N08 N09 2.37e-11
R09 N08 N09 1.56e+00
C10 N09 Port2 6.25e-10
L10 N09 Port2 1.40e-11
R10 N09 Port2 8.09e-01
.ENDS GCM2165C2A151JA16
