*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.20e-04[uF]/100[V]
* Murata P/N :GCM2165C2A221JA16
* Property : C = 2.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C2A221JA16 Port1 Port2
C01 Port1 N01 2.20e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 2.79e-11
R03 N02 N03 7.72e-02
C04 N03 N04 5.84e-10
L04 N03 N04 2.45e-11
R04 N03 N04 8.99e-01
C05 N04 N05 1.71e-10
L05 N04 N05 2.79e-11
R05 N04 N05 1.59e+00
C06 N05 N06 3.45e-10
L06 N05 N06 5.95e-12
R06 N05 N06 3.77e-01
C07 N06 N07 7.62e-11
L07 N06 N07 1.40e-11
R07 N06 N07 1.10e+00
C08 N07 N08 2.81e-11
L08 N07 N08 1.64e-11
R08 N07 N08 2.02e+00
C09 N08 Port2 5.26e-13
L09 N08 Port2 3.46e-10
R09 N08 Port2 1.00e+05
.ENDS GCM2165C2A221JA16
