*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/4.70e-04[uF]/100[V]
* Murata P/N :GCM2165C2A471JA16
* Property : C = 4.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C2A471JA16 Port1 Port2
C01 Port1 N01 4.70e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.82e-11
R03 N02 N03 6.00e-02
L04 N03 N04 4.81e-11
R04 N03 N04 1.44e+00
C05 N04 N05 1.37e-09
L05 N04 N05 1.74e-11
R05 N04 N05 2.86e-01
C06 N05 N06 2.63e-10
L06 N05 N06 2.64e-11
R06 N05 N06 6.11e-01
C07 N06 N07 2.12e-11
L07 N06 N07 2.10e-11
R07 N06 N07 2.59e+00
C08 N07 Port2 5.31e-13
L08 N07 Port2 3.94e-10
R08 N07 Port2 1.00e+05
.ENDS GCM2165C2A471JA16
