*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.50e-02[uF]/100[V]
* Murata P/N :GCM2195C2A153JE02
* Property : C = 1.50e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2195C2A153JE02 Port1 Port2
C01 Port1 N01 1.48e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 2.23e-10
R03 N02 N03 3.71e-03
L04 N03 N04 1.16e-10
R04 N03 N04 2.25e-01
L05 N04 N05 6.62e-11
R05 N04 N05 3.94e-03
C06 N05 N06 4.31e-08
L06 N05 N06 4.49e-11
R06 N05 N06 2.01e-01
C07 N06 N07 1.81e-08
L07 N06 N07 4.62e-11
R07 N06 N07 2.85e-01
C08 N07 N08 6.88e-08
L08 N07 N08 5.61e-12
R08 N07 N08 5.25e-02
C09 N08 N09 3.11e-08
L09 N08 N09 7.68e-12
R09 N08 N09 1.09e-01
C10 N09 N10 5.85e-11
L10 N09 N10 8.02e-12
R10 N09 N10 2.87e-01
C11 N10 Port2 3.91e-12
L11 N10 Port2 6.67e-11
R11 N10 Port2 1.00e+05
.ENDS GCM2195C2A153JE02
